US07504403B2
1-(2-Methylsulfanyl-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one.
To a mixture of 8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one (1.86 g, 8.23 mmol), sodium tert-butoxide (1.6 g, 16 mmol), BINAP (0.15 g, 0.207 mmol), and Pd (OAc)2 (55 mg, 0.2 mmol) was added toluene (20 mL) and 4-chloro -2-methylthiopyrimidine (1.5 mL, 12 mmol). After purged with N2 for 10 min, the overall mixture was heated at 70° C. for 3 h prior to being cooled to room temperature. The resulting material was diluted with saturated NHCl(aq), water, and DCM. The organic layer was taken and the aqueous layer was extracted with DCM. The combined organic layers were dried over Na2SO4, filtrated, and concentrated. Column chromatographic purification (3% MeOH in DCM) of the crude residue afforded the title compound as a yellow solid. MS m/e 351 (M+H)+.

reactant | 8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | 8.23 mmol, 1.86 g | C1(=CC=CC=C1)C=1C=C2N(CCCN2)C(C1)=O | C14H14N2O
reactant | sodium tert-butoxide | 16 mmol, 1.6 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.207 mmol, 0.15 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-chloro -2-methylthiopyrimidine | 12 mmol, 1.5 mL | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methylsulfanyl-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | CSC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C19H18N4OS
